US06660753B2
A mixture of 3-cyano-5-trifluoromethoxybenzoic acid, which 3-[imino(methoxy)methyl]-5-trifluoromethoxybenzoic acid (3:1, 50 mg, 0.2165 mmoles) in dichloromethane (1 mL) was treated with 2M oxalyl chloride (0.433 ml, 0.866 mmol, dichloromethane). The mixture was stirred 3 hours at room temperature. The solvent and excess reagent were removed in vacuo. The residue was treated with 2-pyridyl-amidoxime (29.7 mg, 0.216 mmol) and triethylamine (87 mg, 0.866 mmol) in dichloromethane (1 mL). The mixture was then heated in dimethylformamide (0.5 mL) for 3 hours at 120° C. Standard work up, purified by prep HPLC (C18 column, CH3CN:H2O=60:40), afforded 1.2 mg (1.5%) of 5-(3-methoxycarbonyl-5-trifluoromethoxyphenyl)-3-(2-pyridyl)-1,2,4-oxadiazole [1H-NMR (CDCl3), δ (ppm): 8.86 (d, w, 2H), 8.36 (s, 1H), 8.25 (d, 1H), 8.15 (s, 1H), 7.90 (t, 1H), 7.51 (m, 1H), 4.01 (s, 3H)].

reactant | 3-cyano-5-trifluoromethoxybenzoic acid | C(#N)C=1C=C(C(=O)O)C=C(C1)OC(F)(F)F | C9H4F3NO3
reactant | 3-[imino(methoxy)methyl]-5-trifluoromethoxybenzoic acid | 0.2165 mmoles, 50 mg | N=C(C=1C=C(C(=O)O)C=C(C1)OC(F)(F)F)OC | C10H8F3NO4
reactant | oxalyl chloride | 0.866 mmol, 2M, 0.433 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 0.866 mmol, 87 mg | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 5-(3-methoxycarbonyl-5-trifluoromethoxyphenyl)-3-(2-pyridyl)-1,2,4-oxadiazole | 1.2 mg, 1.5% | COC(=O)C=1C=C(C=C(C1)OC(F)(F)F)C1=NC(=NO1)C1=NC=CC=C1 | C16H10F3N3O4
